US04001226
Benzhydryl 7-phenylacetamido-3-isocyanato-2-cephem-4-carboxylate reacts with 2 equivalents of isopropylamine in tetrahydrofuran at 0° for approximately 1 hour to provide benzhydryl 7-phenylacetamido-3-isopropylureido-3-cephem-4-carboxylate. Likewise morpholine reacts under similar conditions with tert-butyl 7-(2-thienylacetamido)-3-isocyanato-2-cephem-4-carboxylate to provide tert-butyl 7 -(2-thienylacetamido)-3-morpholinocarbonylamino-3-cephem-4-carboxylate. When 4'-methoxybenzyl 7-(tert-butoxycarbonylamino)-3-isocyanato-2-cephem-4carboxylate is reacted with 2.5 equivalents of N-methylaniline in methylene chloride at 0° for about 1 hour, the product isolated, after chromatography, is 4'-methoxybenzyl 7-(tert-butoxycarbonylamino)-3-(N-methyl-N-phenylureido)-3-cephem-4-carboxylate.

reactant | morpholine | N1CCOCC1 | C4H9NO
reactant | tert-butyl 7-(2-thienylacetamido)-3-isocyanato-2-cephem-4-carboxylate | S1C(=CC=C1)CC(=O)NC1[C@@H]2N(C(C(=CS2)N=C=O)C(=O)OC(C)(C)C)C1=O | C18H19N3O5S2
product | tert-butyl 7 -(2-thienylacetamido)-3-morpholinocarbonylamino-3-cephem-4-carboxylate | S1C(=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)NC(=O)N2CCOCC2)C(=O)OC(C)(C)C)C1=O | C22H28N4O6S2
